US07291635B2
HOBt (27 mg, 0.175 mmol), pentyl amine (0.020 mL, 0.175 mmol) and 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (37 mg, 0.192 mmol) are added to a solution of the title A compound in Example 47, (S)-2-t-butoxycarbonylamino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid (91 mg, 0.175 mmol) in CH2Cl2 (4 mL) and the reaction is stirred at RT for 2 h. The mixture is concentrated and the product is taken up in EtOAc, washed with 1N aqueous HCl, saturated aqueous NaHCO3 and brine. The organic solution is dried over anhydrous MgSO4, filtered and concentrated to give a white solid. Chromatography on a 10 g silica gel RediSep (Isco Inc.) column with a 30 mL/min gradient elution of 30:70 (EtOAc:hexane) to 60:40 over 10 min yields ((S)-2-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester as a white solid: [M+1]+=589.

reactant | HOBt | 0.175 mmol, 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | pentyl amine | 0.175 mmol, 0.020 mL | C(CCCC)N | C5H13N
reactant | (S)-2-t-butoxycarbonylamino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid | 0.175 mmol, 91 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H29N3O8S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | ((S)-2-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)=O | C29H40N4O7S
